US09290476B2
Ethyl 3-oxo-2-(4-(trifluoromethyl)benzyl)butanoate
Sodium hydride (60% dispersion in mineral oil, 1.5 g, 38.4 mmol) was added in portions over 2 min to an ice-cooled, stirring solution of ethyl 3-oxobutanoate (5 g, 38.4 mmol) in dry dimethoxyethane (65 mL). After 30 min, a solution of 4-(trifluoromethyl)benzyl bromide (9.2 g, 38.4 mmol) in dry dimethoxyethane (10 mL) was added dropwise over 2 min. The flask was removed from the cooling bath. After 2 h, water (10 mL) was added. The mixture was partitioned between half-saturated aqueous sodium chloride solution (50 mL) and ethyl acetate (150 mL). The layers were separated. The organic layer was dried with magnesium sulfate and the dried solution was filtered. The filtrate was concentrated and the residue was purified by flash-column chromatography on silica gel eluting with hexanes-ethyl acetate to provide the title compound as a colorless liquid.

reactant | Sodium hydride | 38.4 mmol, 1.5 g | [H-].[Na+]
reactant | ethyl 3-oxobutanoate | 38.4 mmol, 5 g | O=C(CC(=O)OCC)C | C6H10O3
reactant | 4-(trifluoromethyl)benzyl bromide | 38.4 mmol, 9.2 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | dimethoxyethane | 65 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 10 mL | C(OC)COC | C4H10O2
product | Ethyl 3-oxo-2-(4-(trifluoromethyl)benzyl)butanoate | O=C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)C | C14H15F3O3
